US07741341B2
3-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-6-([1,4]oxazepane-4-carbonyl)-3H-thieno[3,4-d]imidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
3-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-6-([1,4]oxazepane-4-carbonyl)-3H-thieno[3,4-d]imidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide was prepared by a procedure according to example 22 starting from 80 mg (0.158 mmol) 3-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-3H-thieno[3,4-d]imidazole-6-carboxylic acid and 21.8 mg (0.158 mmol) homomorpholine-hydrochloride. The title compound was obtained as its formiate in form of a white amorphous solid.

reactant | 3-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-3H-thieno[3,4-d]imidazole-6-carboxylic acid | 0.158 mmol, 80 mg | ClC=1C=CC(=NC1)NC(=O)CN1C(=NC=2C1=CSC2C(=O)O)C(NC2CCN(CC2)C(C)C)=O | C22H25ClN6O4S
reactant | homomorpholine-hydrochloride | 0.158 mmol, 21.8 mg | C1CNCCOC1.Cl
product | 3-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-6-([1,4]oxazepane-4-carbonyl)-3H-thieno[3,4-d]imidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C=1N(C=2C(N1)=C(SC2)C(=O)N2CCOCCC2)CC(NC2=NC=C(C=C2)Cl)=O | C27H34ClN7O4S
